US06921762B2
A solution of 0.28 g of 4-chloro-5-(4-fluoro phenyl)-2-methylthio-6-(4-pyridyl)pyrimidine (0.85 mmol) and 3 ml of NH2NH2—H2O in 20 ml EtOH in a 50-ml r.b.flask with a stir bar was stirred at 70° C. The solvents were evaporated and the residue was mixed with toluene. The residue was dried by removal water with toluene and further dried under vacuum at 50° C. overnight. The resulting light yellow solid was mixed with 40 ml of DCM, 4 ml of CH(OCH3)3, and 2 ml of TFA in a 100-ml r.b.flask with a stir bar. The reaction solution was stirred at RT overnight. The acidic reaction solution was neutralized to pH 8 with sat'd NaHCO3. The DCM layer was washed with brine (10 ml) and dried over Na2SO4. After removal of the DCM in vacuo, 8-(4-fluorophenyl)-5-methylthio-7-(4-pyridyl)-1,2,4-triazolo[4,3-c]pyrimidine was obtained as yellow solid; MS m/z (M+H)+ 338.1; C17H12FN5S requir. 337.3.

reactant | 4-chloro-5-(4-fluoro phenyl)-2-methylthio-6-(4-pyridyl)pyrimidine | 0.85 mmol, 0.28 g | ClC1=NC(=NC(=C1C1=CC=C(C=C1)F)C1=CC=NC=C1)SC | C16H11ClFN3S
reactant | NH2NH2—H2O | 3 ml | NN.O
reactant | EtOH | 20 ml | CCO | C2H6O
product | 8-(4-fluorophenyl)-5-methylthio-7-(4-pyridyl)-1,2,4-triazolo[4,3-c]pyrimidine | FC1=CC=C(C=C1)C=1C=2N(C(=NC1C1=CC=NC=C1)SC)C=NN2 | C17H12FN5S
